Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
watery diarrhea and vomiting of 3 days duration
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ female with a history of obesity status
post gastric sleeve in ___, hypertension, chronic diarrhea,
fibromyalgia who presents for evaluation of left lower quadrant
abdominal pain, vomiting and diarrhea. She states the symptoms
began 3 days ago and she has had constant watery diarrhea and
vomiting and inability to tolerate anything p.o. She saw her
primary care doctor today who referred her into the emergency
department for further evaluation. She denies any chest pain or
shortness of breath, does endorse some subjective fever at home,
denies any black or bloody stool, no dysuria or hematuria.

In the ED:
- Initial vital signs were notable for: T 98.0, HR 83, BP 
137/88,
RR 19, O2 sat 97% on RA

Vitals on transfer: T 98.6 HR 92, BP 132/82, RR 18, O2 sat 98% 
on
RA

Upon arrival to the floor, patient endorses the above history.
She reports that the LLQ pain has been ongoing for several weeks
and has not changed recently. Nausea, vomiting and diarrhea are
new as of ___. She denies eating anything unusual that day- 
had
a cookie and croissant from ___, and attended a Toys for Tots
gala at night. She denies any sick contacts. She does have a
history of diarrhea but notes the past 3 days has been extreme,
'like taking golytely for c-scope prep'. Emesis non-biliary and
non-bloody, diarrhea non-bloody. 

History of colon polyps in the past, most recent c-scope was ___
years ago and was negative. Was supposed to have another
screening colonoscopy a few weeks ago but it was cancelled. 

She endorses subjective fevers and chills at home, none today.
She denies CP, SOB, dysuria, hematuria, urinary urgency or
incontinence.
 
Past Medical History:
History of colon polyps in the past, most recent c-scope was ___
years ago and was negative. Was supposed to have another
screening colonoscopy a few weeks ago but it was cancelled.

obesity status post gastric sleeve in ___, hypertension, 
chronic diarrhea,fibromyalgia
 
Social History:
___
Family History:
Mother died in late ___ due to "massive coronary".  Father had 
a
CABG at age ___. Father and aunt had colon cancer. Father was
diagnosed with colon cancer at age ___. Deceased brother had
polyps. Aunt had colitis, ?ulcerative colitis.  Same aunt had
___. 
 
Physical Exam:
98.7 ___ R ___
GENERAL: Alert and interactive. 
HEENT: NCAT. MMM. EOMI. Sclera anicteric and without injection.  

CARDIAC: RRR.
RESP: CTABL. 
ABDOMEN: hyperactive BS. Abd soft, non distended, mildly tender
to deep palpation in LLQ. No rebound tenderness or guarding.
Negative ___. No organomegaly. No CVAT.
MSK: 1+ pitting edema in b/l ___. 
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 grossly intact. No focal neurologic deficits,
moving all extremities. AOx3.
PSYCH: appropriate mood and affect

 
Pertinent Results:
___ 06:29AM BLOOD WBC-6.1 RBC-4.48 Hgb-13.5 Hct-42.5 MCV-95 
MCH-30.1 MCHC-31.8* RDW-14.2 RDWSD-50.1* Plt ___
___ 07:00PM BLOOD Neuts-51.4 ___ Monos-13.9* 
Eos-1.5 Baso-0.9 Im ___ AbsNeut-3.00 AbsLymp-1.86 
AbsMono-0.81* AbsEos-0.09 AbsBaso-0.05
___ 06:40AM BLOOD Glucose-76 UreaN-11 Creat-0.6 Na-140 
K-4.2 Cl-105 HCO3-25 AnGap-10
___ 06:29AM BLOOD ALT-14 AST-18 LD(LDH)-150 AlkPhos-69 
TotBili-0.2

UA W/REFLEX CULTURE
Color
Straw Appear
Clear SpecGr
1.010 pH   
6.5 Urobil
Normal Bili
Neg 
Leuk
Neg Bld
Sm Nitr
Neg Prot
Neg Glu
Neg Ket
10 RBC
2 WBC
<1 Bact
None Yeast
None Epi
1 Amorph
Rare 
Other Urine Counts
Mucous: Rare
 
Brief Hospital Course:
#LLQ abdominal pain
#Nausea/vomiting
#Diarrhea
NBNB emesis and non-bloody diarrhea x 3 days, w/ LLQ abdominal
pain (although that has been ongoing). Diarrhea is more severe
now than her baseline chronic diarrhea/rectal incontinence.
Reassuringly afebrile with normal labs and no acute findings on
CT A/P. DDx could include viral gastroenteritis, or possible 
food poising.
 No recent abx use.
Most concerned for viral GE.   
CT abd/plv w contrast was reassuring (unchanged from before).

Diarrhea resolved on admission and stool sample was never 
provided. Patient tolerated oral intake and ambulated before 
discharge. 

#Dirty UA
#Hematuria
UA with 35 RBC, 35 WBC, moderate blood, moderate leuks and no
nitrites but with 20 epis. No urinary sx to suggest UTI.
-repeat UA was better with mild heamturia still 

Transitional issues:

- Furosemide held until next PCP follow up due to GE and 
dehydration. 
- Hematuria. mild, but recommend repeating UA to ensure 
resolution.
- Mild abdominal pain persisted, consider CT abdomen and pelvis 
without contrast if it doesn't resolve. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Banophen (diphenhydrAMINE HCL) 25 mg oral DAILY:PRN allergies 

2. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY 
3. Cetirizine 10 mg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Gabapentin 100 mg PO BID 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 20 mg PO BID 
9. Mobic (meloxicam) 7.5 mg oral DAILY 
10. Nabumetone 750 mg PO BID 
11. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1.  Banophen (diphenhydrAMINE HCL) 25 mg oral DAILY:PRN 
allergies  
2.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY  
3.  Cetirizine 10 mg PO DAILY  
4.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
5.  Gabapentin 100 mg PO BID  
6.  Multivitamins 1 TAB PO DAILY  
7.  Nabumetone 750 mg PO BID  
8.  Omeprazole 20 mg PO BID  
9.  Vitamin D ___ UNIT PO DAILY  
10. HELD- Furosemide 20 mg PO DAILY  This medication was held. 
Do not restart Furosemide until you visit with primary care 
doctor and dehydration is not an issue anymore

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroenteritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You have been admitted to ___ with gastroenteritis (stomach 
flu), we are glad to see you doing better. Please hydrate well 
in the next few days, and report any new or recurrent symptoms 
to your primary care doctor. 

Best wishes for a speedy full recovery,
___ Medicine Team
 
Followup Instructions:
___